US05237063
a) 2-Chloro-4-methoxy-6-trichloromethylpyrimidine
293.1 g (1.692 mol) of 30% strength sodium methylate solution were added over the course of 11/2 hours to a stirred solution of 434 g (1.692 mol) of 2,6-dichloro-4-trichloromethylpyrimidine in 1 l of 1,2-dichloroethane at 0° to 5° C. The mixture was then stirred at 0° to 5° C. for 1 hour and at 25° C. for 12 hours and then extracted ×4 with water and ×3 with saturated brine. Drying over magnesium sulfate and concentration resulted in 423 g (95% of theory) of the title compound as an almost colorless oil.

reactant | sodium methylate | C[O-].[Na+]
reactant | 2,6-dichloro-4-trichloromethylpyrimidine | 1.692 mol, 434 g | ClC1=NC(=CC(=N1)C(Cl)(Cl)Cl)Cl | C5HCl5N2
solvent | 1,2-dichloroethane | 1 l | ClCCCl | C2H4Cl2
product | 2-Chloro-4-methoxy-6-trichloromethylpyrimidine | ClC1=NC(=CC(=N1)OC)C(Cl)(Cl)Cl | C6H4Cl4N2O
